**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Aluminum Electrolytic Capacitors
* Matchcode:              WCAP-AIG5 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-31
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt AIG8_861010784009_3R3mF 1 2
Rser 1 3 0.04072
Lser 2 4 2.1779506405E-08
C1 3 4 0.0033
Rpar 3 4 15151.5151515152
.ends AIG8_861010784009_3R3mF
*****
.subckt AIG8_861010786015_4R7mF 1 2
Rser 1 3 0.037283
Lser 2 4 1.9842938336E-08
C1 3 4 0.0047
Rpar 3 4 10638.2978723404
.ends AIG8_861010786015_4R7mF
*****
.subckt AIG8_861010786021_6R8mF 1 2
Rser 1 3 0.037173
Lser 2 4 1.9088268647E-08
C1 3 4 0.0068
Rpar 3 4 7352.94117647059
.ends AIG8_861010786021_6R8mF
*****
.subckt AIG8_861011084009_0R47mF 1 2
Rser 1 3 0.1485
Lser 2 4 1.6657293561E-08
C1 3 4 0.00047
Rpar 3 4 106382.978723404
.ends AIG8_861011084009_0R47mF
*****
.subckt AIG8_861011084015_0R68mF 1 2
Rser 1 3 0.12221
Lser 2 4 1.6423797781E-08
C1 3 4 0.00068
Rpar 3 4 73529.4117647059
.ends AIG8_861011084015_0R68mF
*****
.subckt AIG8_861011086027_1R5mF 1 2
Rser 1 3 0.060055
Lser 2 4 1.7054937341E-08
C1 3 4 0.0015
Rpar 3 4 33333.3333333333
.ends AIG8_861011086027_1R5mF
*****
.subckt AIG8_861011384014_0R22mF 1 2
Rser 1 3 0.31844
Lser 2 4 1.4863233484E-08
C1 3 4 0.00022
Rpar 3 4 227272.727272727
.ends AIG8_861011384014_0R22mF
*****
.subckt AIG8_861011385023_0R33mF 1 2
Rser 1 3 0.22242
Lser 2 4 1.2037845668E-08
C1 3 4 0.00033
Rpar 3 4 151515.151515152
.ends AIG8_861011385023_0R33mF
*****
.subckt AIG8_861011386030_0R47mF 1 2
Rser 1 3 0.17265
Lser 2 4 1.3520559628E-08
C1 3 4 0.00047
Rpar 3 4 106382.978723404
.ends AIG8_861011386030_0R47mF
*****
.subckt AIG8_861011483001_47uF 1 2
Rser 1 3 0.592
Lser 2 4 1.3511713379E-08
C1 3 4 0.000047
Rpar 3 4 1063829.78723404
.ends AIG8_861011483001_47uF
*****
.subckt AIG8_861011483002_68uF 1 2
Rser 1 3 0.592
Lser 2 4 1.3027728829E-08
C1 3 4 0.000068
Rpar 3 4 735294.117647059
.ends AIG8_861011483002_68uF
*****
.subckt AIG8_861011483003_82uF 1 2
Rser 1 3 0.298
Lser 2 4 1.3853014923E-08
C1 3 4 0.000082
Rpar 3 4 609756.097560976
.ends AIG8_861011483003_82uF
*****
.subckt AIG8_861011483004_0R1mF 1 2
Rser 1 3 0.26
Lser 2 4 1.2322764467E-08
C1 3 4 0.0001
Rpar 3 4 500000
.ends AIG8_861011483004_0R1mF
*****
.subckt AIG8_861011483005_0R12mF 1 2
Rser 1 3 0.213
Lser 2 4 1.3381590937E-08
C1 3 4 0.00012
Rpar 3 4 416666.666666667
.ends AIG8_861011483005_0R12mF
*****
.subckt AIG8_861011483006_0R15mF 1 2
Rser 1 3 0.188
Lser 2 4 1.3236124722E-08
C1 3 4 0.00015
Rpar 3 4 333333.333333333
.ends AIG8_861011483006_0R15mF
*****
.subckt AIG8_861011483007_0R18mF 1 2
Rser 1 3 0.163
Lser 2 4 1.2671116928E-08
C1 3 4 0.00018
Rpar 3 4 277777.777777778
.ends AIG8_861011483007_0R18mF
*****
.subckt AIG8_861011484008_82uF 1 2
Rser 1 3 0.346
Lser 2 4 1.5008879464E-08
C1 3 4 0.000082
Rpar 3 4 609756.097560976
.ends AIG8_861011484008_82uF
*****
.subckt AIG8_861011484009_0R1mF 1 2
Rser 1 3 0.262
Lser 2 4 1.90248154153584E-08
C1 3 4 0.0001
Rpar 3 4 500000
.ends AIG8_861011484009_0R1mF
*****
.subckt AIG8_861011484010_0R12mF 1 2
Rser 1 3 0.246
Lser 2 4 1.85213187898072E-08
C1 3 4 0.00012
Rpar 3 4 416666.666666667
.ends AIG8_861011484010_0R12mF
*****
.subckt AIG8_861011484011_0R15mF 1 2
Rser 1 3 0.183
Lser 2 4 1.3944336044E-08
C1 3 4 0.00015
Rpar 3 4 333333.333333333
.ends AIG8_861011484011_0R15mF
*****
.subckt AIG8_861011484012_0R18mF 1 2
Rser 1 3 0.152
Lser 2 4 1.3599919566E-08
C1 3 4 0.00018
Rpar 3 4 277777.777777778
.ends AIG8_861011484012_0R18mF
*****
.subckt AIG8_861011484013_0R22mF 1 2
Rser 1 3 0.127
Lser 2 4 1.35170052E-08
C1 3 4 0.00022
Rpar 3 4 227272.727272727
.ends AIG8_861011484013_0R22mF
*****
.subckt AIG8_861011485014_0R15mF 1 2
Rser 1 3 0.205
Lser 2 4 2.45036491425324E-08
C1 3 4 0.00015
Rpar 3 4 333333.333333333
.ends AIG8_861011485014_0R15mF
*****
.subckt AIG8_861011485015_0R18mF 1 2
Rser 1 3 0.169
Lser 2 4 1.457289665E-08
C1 3 4 0.00018
Rpar 3 4 277777.777777778
.ends AIG8_861011485015_0R18mF
*****
.subckt AIG8_861011485016_0R22mF 1 2
Rser 1 3 0.148
Lser 2 4 2.47351457940872E-08
C1 3 4 0.00022
Rpar 3 4 227272.727272727
.ends AIG8_861011485016_0R22mF
*****
.subckt AIG8_861011485017_0R27mF 1 2
Rser 1 3 0.136
Lser 2 4 2.51911472421803E-08
C1 3 4 0.00027
Rpar 3 4 185185.185185185
.ends AIG8_861011485017_0R27mF
*****
.subckt AIG8_861011485018_0R33mF 1 2
Rser 1 3 0.121
Lser 2 4 2.61270674037942E-08
C1 3 4 0.00033
Rpar 3 4 151515.151515152
.ends AIG8_861011485018_0R33mF
*****
.subckt AIG8_861011485019_0R39mF 1 2
Rser 1 3 0.121
Lser 2 4 2.60587299530843E-08
C1 3 4 0.00039
Rpar 3 4 128205.128205128
.ends AIG8_861011485019_0R39mF
*****
.subckt AIG8_861011486020_0R22mF 1 2
Rser 1 3 0.31445
Lser 2 4 1.5829460581E-08
C1 3 4 0.00022
Rpar 3 4 227272.727272727
.ends AIG8_861011486020_0R22mF
*****
.subckt AIG8_861011486021_0R27mF 1 2
Rser 1 3 0.151
Lser 2 4 2.71212258520702E-08
C1 3 4 0.00027
Rpar 3 4 185185.185185185
.ends AIG8_861011486021_0R27mF
*****
.subckt AIG8_861011486022_0R33mF 1 2
Rser 1 3 0.104
Lser 2 4 9.09014270834679E-09
C1 3 4 0.00033
Rpar 3 4 151515.151515152
.ends AIG8_861011486022_0R33mF
*****
.subckt AIG8_861011486023_0R39mF 1 2
Rser 1 3 0.101
Lser 2 4 2.31407416896361E-08
C1 3 4 0.00039
Rpar 3 4 128205.128205128
.ends AIG8_861011486023_0R39mF
*****
.subckt AIG8_861011486024_0R47mF 1 2
Rser 1 3 0.076
Lser 2 4 9.10992922174604E-09
C1 3 4 0.00047
Rpar 3 4 106382.978723404
.ends AIG8_861011486024_0R47mF
*****
.subckt AIG8_861011487025_0R39mF 1 2
Rser 1 3 0.084
Lser 2 4 1.02705515973701E-08
C1 3 4 0.00039
Rpar 3 4 128205.128205128
.ends AIG8_861011487025_0R39mF
*****
.subckt AIG8_861011487026_0R47mF 1 2
Rser 1 3 0.082
Lser 2 4 1.0143049562128E-08
C1 3 4 0.00047
Rpar 3 4 106382.978723404
.ends AIG8_861011487026_0R47mF
*****
.subckt AIG8_861011487027_0R56mF 1 2
Rser 1 3 0.063
Lser 2 4 9.81318509955244E-09
C1 3 4 0.00056
Rpar 3 4 89285.7142857143
.ends AIG8_861011487027_0R56mF
*****
